US04853381
1-[2-(4-Bromobutoxy)ethyl]-4-fluorobenzene
A mixture of 4-fluorobenzeneethanol (10.0 g), 1,4-dibromobutane (59.0 g), aqueous sodium hydroxide (50% w/v; 40 ml) and tetrabutylammonium bisulphate (1 g) was stirred at room temperature for 20 h, diluted with water (50 ml) and extracted with ER (2×100 ml). The dried extract was evaporated and the residue was purified by [C] eluting with cyclohexane followed by cyclohexane-ER (19:1) to give the title compound as a colourless oil (17.3 g). T.l.c. (cyclohexane-ER 9:1) Rf 0.4

reactant | 4-fluorobenzeneethanol | 10.0 g | FC1=CC=C(C=C1)CCO | C8H9FO
reactant | 1,4-dibromobutane | 59.0 g | BrCCCCBr | C4H8Br2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bisulphate | 1 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
product | 1-[2-(4-Bromobutoxy)ethyl]-4-fluorobenzene | 17.3 g | BrCCCCOCCC1=CC=C(C=C1)F | C12H16BrFO
